US08026244B2
(a) tert-Butyl {2-[(5-carbamoyl-1H-imidazol-4-yl)amino]ethyl}carbamate
The reaction mixture of 5-amino-imidazole-4-carboxamide hydrochloride (10 g, 62 mmol) and triethylamine (8.7 mL, 63 mmol) in anhydrous methanol (100 mL) was stirred for 15 min. Acetic acid (0.9 mL, 16 mmol) and N-boc-2-aminoacetaldehyde (11 g, 67 mmol) were added. The reaction mixture was stirred for 3 h, then sodium cyanoborohydride (5 g, 80 mmol) was added and the mixture was stirred o.n. A solution of saturated sodium bicarbonate was added and most of the methanol was removed in vacuo. The mixture was extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated. Purification by silica gel column chromatography, (dichloromethane/ammonia (7N in methanol), 0-6%) gave 9.2 g (55% yield) of the title compound.

reactant | 5-amino-imidazole-4-carboxamide hydrochloride | 62 mmol, 10 g | Cl.NC1=C(N=CN1)C(=O)N
reactant | triethylamine | 63 mmol, 8.7 mL | C(C)N(CC)CC | C6H15N
reactant | Acetic acid | 16 mmol, 0.9 mL | C(C)(=O)O | C2H4O2
reactant | N-boc-2-aminoacetaldehyde | 67 mmol, 11 g | C(=O)(OC(C)(C)C)NCC=O | C7H13NO3
reactant | sodium cyanoborohydride | 80 mmol, 5 g | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | tert-Butyl {2-[(5-carbamoyl-1H-imidazol-4-yl)amino]ethyl}carbamate | 9.2 g, 55% yield | C(N)(=O)C1=C(N=CN1)NCCNC(OC(C)(C)C)=O | C11H19N5O3
